US08877774B2
Step 1. Benzyl 3-bromo-5-hydroxybenzoate
To a stirred solution of 3-bromo-5-hydroxybenzoic acid (2 g, 9.22 mmol) in dimethyl formamide (50 mL), was added potassium carbonate (1.27 g, 9.21 mmol), and the mixture was stirred at 0° C. for 20 minutes. Benzyl bromide (1.1 mL, 9.25 mmol) was added, and the reaction mixture allowed to warm to room temperature over 16 hours. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The combined organic extracts were washed with brine, dried (magnesium sulphate), filtered, and concentrated under reduced pressure to afford the title compound (2.85 g, quantitative yield).

reactant | 3-bromo-5-hydroxybenzoic acid | 9.22 mmol, 2 g | BrC=1C=C(C(=O)O)C=C(C1)O | C7H5BrO3
reactant | potassium carbonate | 9.21 mmol, 1.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl bromide | 9.25 mmol, 1.1 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Benzyl 3-bromo-5-hydroxybenzoate | 2.85 g, quantitative yield | BrC=1C=C(C(=O)OCC2=CC=CC=C2)C=C(C1)O | C14H11BrO3
